US05527791
3-Nitrobenzyl alcohol (5 g, 32.6 mM) was dissolved in DMF (200 ml) and cooled to 5°. Sodium hydride (60% in oil, 1.57 g, 39.2 mM) was added to the stirred solution in portions over 30 minutes, and the mixture cooled to -20°. t-Butyl bromoacetate (5.27 ml, 32.6 mM) was run in dropwise, and the mixture allowed to warm to ambient temperature overnight. Solvent was evaporated, the residue treated with water, and organics extracted into ethyl acetate. The combined organic layers were washed with water and brine, and dried over MgSO4. Crude product was purified by chromatography on silica, eluting with a gradient from hexane/dichloromethane (95:5) to dichloromethane, to give t-butyl 3-nitrobenzyloxyacetate (7.71 g, 88%).

reactant | 3-Nitrobenzyl alcohol | 32.6 mM, 5 g | [N+](=O)([O-])C=1C=C(CO)C=CC1 | C7H7NO3
reactant | Sodium hydride | 39.2 mM, 1.57 g | [H-].[Na+]
reactant | t-Butyl bromoacetate | 32.6 mM, 5.27 ml | BrCC(=O)OC(C)(C)C | C6H11BrO2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | t-butyl 3-nitrobenzyloxyacetate | 7.71 g, 88% | [N+](=O)([O-])C=1C=C(COCC(=O)OC(C)(C)C)C=CC1 | C13H17NO5
